US04143139
To a solution of the Grignard reagent prepared from 2-phenylbromoethane (5.5 g.), magnesium (0.8 g.) and dry ether (60 ml.) is added a solution of 2-methyl-2-(3,5-dimethoxyphenyl)propionitrile (2.75 g.) in dry ether (20 ml.). The ether is distilled off and replaced by dry benzene (50 ml.) and the mixture refluxed for 48 hours. It is then decomposed by careful treatment with dilute sulfuric acid and heated on a steam bath for 1 hour. The mixture is then extracted with ether, the extract dried (MgSO4) and concentrated to an oil. Distillation of the oil in vacuo affords 2-methyl-2-(3,5-dimethoxyphenyl)-5-phenyl-3-pentanone; b.p. 168° C./0.2 mm. (Yield: 2.32 g., 60%)

reactant | 2-phenylbromoethane | 5.5 g | C1(=CC=CC=C1)CCBr | C8H9Br
reactant | magnesium | 0.8 g | [Mg] | Mg
reactant | 2-methyl-2-(3,5-dimethoxyphenyl)propionitrile | 2.75 g | CC(C#N)(C)C1=CC(=CC(=C1)OC)OC | C12H15NO2
reactant | ether | 20 ml | CCOCC | C4H10O
reactant | ether | 60 ml | CCOCC | C4H10O
product | 2-methyl-2-(3,5-dimethoxyphenyl)-5-phenyl-3-pentanone | CC(C)(C(CCC1=CC=CC=C1)=O)C1=CC(=CC(=C1)OC)OC | C20H24O3
